US06653305B2
(2-hydroxybutylamino)acetic acid
4.60 g of [N-benzyl-N-(2-hydroxybutyl)amino]acetic acid are dissolved in a mixture of methanol and water (7:1) and hydrogenated in the presence of palladium (10% on activated charcoal) as catalyst for about 2.5 hours at ambient temperature until the calculated amount of hydrogen has been taken up. For working up, the catalyst is filtered off and the filtrate evaporated down in vacuo, leaving a white solid. Yield: 2.77 g (97% of theory); Rf value: 0.86 (Reversed phase ready-made TLC plate (E. Merck), acetonitrile/water/trifluoroacetic acid=50:50:1); mass spectrum (ESI−): m/z=146 [M−H]−.

reactant | [N-benzyl-N-(2-hydroxybutyl)amino]acetic acid | 4.60 g | C(C1=CC=CC=C1)N(CC(CC)O)CC(=O)O | C13H19NO3
reactant | acetonitrile water trifluoroacetic acid | C(C)#N.O.FC(C(=O)O)(F)F
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | palladium | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | (2-hydroxybutylamino)acetic acid | OC(CNCC(=O)O)CC | C6H13NO3
